US04198425
3-Hydroxy-3methyl-7-phenyl-5-heptanolide
To a solution of 200 mg of 3-hydroxy-3-methyl-4-bromo-7-phenyl-5-heptanolide in 2 ml of anhydrous tetrahydrofuran was added 500 mg of tri-n-butyltin hydride and the mixtue was allowed to stand overnight at room temperature. After completion of the reaction, tetrahydrofuran was evaporated and n-hexane was added to the residue to precipitate an oily substance, which was pruified by a thin layer chromatography (silica gel) affording 82 mg of the desired compound.

reactant | 3-hydroxy-3-methyl-4-bromo-7-phenyl-5-heptanolide | 200 mg | OC1(CC(=O)OC(C1Br)CCC1=CC=CC=C1)C | C14H17BrO3
reactant | tri-n-butyltin hydride | 500 mg | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3methyl-7-phenyl-5-heptanolide | 82 mg | OC1(CC(=O)OC(C1)CCC1=CC=CC=C1)C | C14H18O3
